US08461157B2
Step 37a: 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (Compound 0602-110)
The title compound, 0602-110 was prepared (500 mg, 23%) as an oil from 2-amino-5-bromopyridine (1.73 g, 10 mmol), bis(pinacolato)diboron (3.81 g, 15 mmol), potassium acetate (3 g, 30 mmol), and PdCl2(dppf)2 (408 mg, 5 mmol) using a procedure similar to that described for compound 0602-107 (Example 34). LCMS: 221 [M+1]+. 1H NMR (400 MHz, DMSO-d6) δ 1.25 (s, 12H), 6.30 (s, 2H), 6.39 (d, J=8.0 Hz, 1H), 7.54 (d, J=10.0 Hz, 1H), 8.16 (s, 1H).

reactant | 2-amino-5-bromopyridine | 10 mmol, 1.73 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | bis(pinacolato)diboron | 15 mmol, 3.81 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 30 mmol, 3 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2(dppf)2 | 5 mmol, 408 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
